US07601728B2
tert-Butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-7-cyano-3-methyl-4-oxo-2-thioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate
Methyl isothiocyanate (7.36 ml) and potassium carbonate (14.86 g) were added to a solution (200 ml) of ethyl 3-amino-5-{(3R)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-1-(2-chloro-5-fluorobenzyl)-4-cyano-1H-pyrrole-2-carboxylate (27.96 g) in pyridine, and the resulting mixture was stirred with heating at 130° C. for 13 hours. After the reaction solution was cooled to 25° C., toluene (50 ml) was added thereto and the resulting mixture was concentrated under reduced pressure. This procedure was repeated three times. The resulting residue was adjusted to pH 2 with an aqueous potassium hydrogensulfate solution and the solid precipitated was collected by filtration and washed with water and then hexane. The solid thus obtained was dried at 45° C. under reduced pressure to obtain the title compound (28.56 g).

reactant | Methyl isothiocyanate | 7.36 ml | CN=C=S | C2H3NS
reactant | potassium carbonate | 14.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-amino-5-{(3R)-3-[(tert-butoxycarbonyl)amino]piperidin-1-yl}-1-(2-chloro-5-fluorobenzyl)-4-cyano-1H-pyrrole-2-carboxylate | 200 ml, 27.96 g | NC1=C(N(C(=C1C#N)N1C[C@@H](CCC1)NC(=O)OC(C)(C)C)CC1=C(C=CC(=C1)F)Cl)C(=O)OCC | C25H31ClFN5O4
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | tert-Butyl {(3R)-1-[5-(2-chloro-5-fluorobenzyl)-7-cyano-3-methyl-4-oxo-2-thioxo-2,3,4,5-tetrahydro-1H-pyrrolo[3,2-d]pyrimidin-6-yl]piperidin-3-yl}carbamate | 28.56 g | ClC1=C(CN2C(=C(C=3NC(N(C(C32)=O)C)=S)C#N)N3C[C@@H](CCC3)NC(OC(C)(C)C)=O)C=C(C=C1)F | C25H28ClFN6O3S
